US04504486
Preparation of 3-methyl-2-(4'-nitrobenzoyl)-3-isoxazolin-5-one
4 gm of 3-methyl-3-isoxazolin-5-one was added to 20 ml of toluene along with 3.5 gm of pyridine. 8.2 gm of 4-nitrobenzoyl chloride in 80 ml of toluene was added dropwise. The solution was stirred at room temperature for 4 hours. Afterwards, the system was poured into 200 ml water. The resulting solution was filtered and the organic phase then separated and dried over sodium sulfate. The toluene was removed by stripping to give 6.9 gm of a mixture of 3-methyl-2-(4'-nitrobenzoyl)-3-isoxazolin-5-one and 3-methyl-5-hydroxyisoxazolyl4'-nitrobenzoate. The crude product was recrystallized in ethanol to give 4.6 gm of the mixture. The product 3-methyl-2-(4-nitrobenzoyl)-3-isoxazolin-5-one was separated by column chromatography using 200 gm of E.M. silica gel 60 in an 80×90 mm column and a 2% solution of acetone in methylene chloride as the elutant. Listed as compound number 1, Table I.

reactant | 3-methyl-3-isoxazolin-5-one | 4 gm | CC=1NOC(C1)=O | C4H5NO2
reactant | pyridine | 3.5 gm | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 8.2 gm | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 200 ml | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-2-(4'-nitrobenzoyl)-3-isoxazolin-5-one | 6.9 gm | CC=1N(OC(C1)=O)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H8N2O5
